US07884112B2
3,4-Dichlorobenzoic acid N′-(5-chloro-1H-pyrrolo[3,2-b]pyridine-2-carbonyl)hydrazide
To a solution of 5-chloro-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid (Preparation 5, 20.0 mg, 0.10 mmol) in DMF (5 mL) was added 3,4-dichlorobenzoic acid hydrazide (23 mg, 0.11 mmol), DIPEA (19.5 μL, 0.11 mmol) and HOBt (14.0 mg, 0.10 mmol). The resulting solution was stirred for 5 min prior to the addition of EDCI (23 mg, 1.20 mmol). The reaction mixture was stirred for 16 hr at rt then partitioned between water (10 mL) and dichloromethane (20 mL) on a hydrophobic frit. The aqueous phase was extracted with a further portion of dichloromethane (30 mL) and the combined organics were concentrated in vacuo. Trituration of the resulting residue with ethyl acetate/dichloromethane gave the title compound. δH (d6 DMSO): 12.25 (1H, s), 10.83 (2H, d), 8.17 (1H, s), 7.55-7.97 (3H, m), 7.38 (1H, s), 7.26 (1H, d); m/z (ES+)=383 [M+H]+; RT=3.37 min.

reactant | 5-chloro-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid | 0.10 mmol, 20.0 mg | ClC1=CC=C2C(=N1)C=C(N2)C(=O)O | C8H5ClN2O2
reactant | 3,4-dichlorobenzoic acid hydrazide | 0.11 mmol, 23 mg | ClC=1C=C(C(=O)NN)C=CC1Cl | C7H6Cl2N2O
reactant | DIPEA | 0.11 mmol, 19.5 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | 0.10 mmol, 14.0 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 1.20 mmol, 23 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3,4-Dichlorobenzoic acid N′-(5-chloro-1H-pyrrolo[3,2-b]pyridine-2-carbonyl)hydrazide | ClC1=CC=C2C(=N1)C=C(N2)C(=O)NNC(C2=CC(=C(C=C2)Cl)Cl)=O | C15H9Cl3N4O2
